US04163018
Water (88 L) was added to stearyl phosphate (molar ratio of diester/monoester=1/2.7; acid value, 232 mg KOH/g) (5 kg) while heating at 90° C., whereby the stearyl phosphate was dispersed uniformly. An aqueous solution of potassium hydroxide (300 g/L) (3862 ml) was dropwise added to the mixture while keeping the said temperature. When the addition was finished, the mixture showed a pH of about 11. The saponified dispersion was divided in five equal parts, and an aqueous solution of zinc sulfate (300 g/L) (1591 ml) was added to each part at 50°, 60°, 70°, 80° or 90° C. and the mixture was further stirred for 90 minutes. The product was collected, washed with water, filtered, dried at 75° C. for 72 hours and pulverized by the aid of a water-cooling type hammer mill to give zinc stearyl phosphate. The results are shown in Table 1.

reactant | stearyl phosphate | 232 mg | P(=O)(OCCCCCCCCCCCCCCCCCC)([O-])[O-]
reactant | potassium hydroxide | 3862 ml | [OH-].[K+]
reactant | zinc sulfate | 1591 ml | S(=O)(=O)([O-])[O-].[Zn+2]
solvent | Water | 88 L | O | H2O
product | zinc stearyl phosphate | P(=O)(OCCCCCCCCCCCCCCCCCC)([O-])[O-].[Zn+2] | InChI=1S/C18H39O4P.Zn/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-22-23(19,20)21;/h2-18H2,1H3,(H2,19,20,21);/q;+2/p-2
